US04423241
Preparation of 2,6-Dichlorobenzylideneaminooxyacetic Acid, Methyl Ester (Compound B)
A mixture of 12.4 gm. (0.050 mole) of 2,6-dichlorobenzylideneaminooxyacetic acid, 4.8 gm. (0.150 mole) of methanol and about 0.8 gm. of methanesulfonic acid in 15 ml. of 1,2-dichloroethane was refluxed for 15-16 hours. The cooled reaction mixture was then washed with cold, aqueous sodium bicarbonate, followed by a cold water wash. The organic phase was then concentrated under reduced pressure and at a mixture bath temperature of about 60° C. The resulting oil solidified on cooling. There were obtained 12.5 gm. (96%) of product melting at 58°-65° C. Purification by high vacuum distillation yielded material which, when allowed to crystallize, melted at 60°-62° C. (uncorrected).

reactant | 2,6-dichlorobenzylideneaminooxyacetic acid | 0.050 mole | ClC(C(=O)O)ON=CC1=CC=CC=C1Cl | C9H7Cl2NO3
reactant | methanol | 0.150 mole | CO | CH4O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2,6-Dichlorobenzylideneaminooxyacetic Acid, Methyl Ester | ClC(C(=O)OC)ON=CC1=CC=CC=C1Cl | C10H9Cl2NO3
